US07112611B2
Stage 3.5: (4-[1,2,3]-Triazol-2-yl-phenyl)-methanol
To a solution of 42.26 g (244 mmol) of 4-[1,2,3]-triazol-2-yl-benzaldehyde in 140 ml of THF and 420 ml of MeOH, 9.23 g (244 mmol) of NaBH4 are added portionwise at 0–5° C. and the mixture is stirred for 30 min. at the same temperature. The reaction is quenched with sat. NH4Cl at 0–5° C. and the mixture is extracted with AcOEt. The combined extracts are washed with brine, dried over MgSO4 and concentrated under reduced pressure to give the title compound as a colorless solid.

reactant | 4-[1,2,3]-triazol-2-yl-benzaldehyde | 244 mmol, 42.26 g | N=1N(N=CC1)C1=CC=C(C=O)C=C1 | C9H7N3O
reactant | NaBH4 | 244 mmol, 9.23 g | [BH4-].[Na+]
solvent | THF | 140 ml | C1CCOC1 | C4H8O
solvent | MeOH | 420 ml | CO | CH4O
product | (4-[1,2,3]-Triazol-2-yl-phenyl)-methanol | N=1N(N=CC1)C1=CC=C(C=C1)CO | C9H9N3O
